US06995162B2
1-Boc-4-(3-nitro-5-trifluoromethyl-benzyl)-piperazine
(4-Boc-piperazin-1-yl)-(3-nitro-5-trifluoromethyl-phenyl)-methanone (403 mg) was dissolved in THF (6 ml) and BH3Me2S (300 μl) was added and the reaction was stirred for 3 h at 60° C. and 2 h at RT. The reaction was quenched with MeOH (5 ml) and NaOH (100 mg) and stirred at RT for 1 h. The mixture was concentrated and dissolved in CH2Cl2, washed with sated NH4Cl/NaHCO3, dried (MgSO4), filtered and evaporated to give the compound as an oil. M+H 390.3.

reactant | (4-Boc-piperazin-1-yl)-(3-nitro-5-trifluoromethyl-phenyl)-methanone | 403 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C17H20F3N3O5
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 1-Boc-4-(3-nitro-5-trifluoromethyl-benzyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)CC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C17H22F3N3O4
